US07432275B2
2. 6-Methyl-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile
In a sealed tube, dissolve 6-chloro-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile (242 mg, 0.853 mmol), CH3B(OH)2 (300 mg, 5.10 mmol), K2CO3 (1.6 g, 12 mmol), and Pd(PPh3)4 in a solution of dioxane (10 mL) and H2O (2 mL). Bubble argon through the mixture for 30 minutes and seal. Heat the mixture at 115° C. overnight. Cool the mixture to room temperature. Add H2O (20 mL) and extract with EtOAc (3×20 mL). Combine the organic extracts and wash with brine (60 mL). Dry the organic layer over Na2SO4 and remove the solvent under reduced pressure. Purify the crude product using silica gel chromatography eluting with EtOAc/hexane (1:1) to yield the title compound. MS 264.07 (M+1).

reactant | 6-chloro-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile | 0.853 mmol, 242 mg | ClC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N | C12H5ClF3N3
reactant | CH3B(OH)2 | 5.10 mmol, 300 mg | CB(O)O | CH5BO2
reactant | K2CO3 | 12 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 2 mL | O | H2O
product | 6-Methyl-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile | CC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N | C13H8F3N3
